US08071597B2
Intermediate 77: N-(2-chloropyrido[3,4-b]pyrazin-3-yl)benzenesulfonamide (Formula II)
2,3-dichloro-pyrido(3,4-b)pyrazine (300 mg, 1.5 mmol, 1 eq.), benzenesulfonamide (235.8 mg, 1.5 mmol, 1 eq.) and K2CO3 (207.3 mg, 1.5 mmol, 1 eq.) are taken up in anhydrous DMA (10 ml) under argon. The reaction mixture is stirred at room temperature for 3 days, then water (15 ml) is added. The aqueous phase is washed with EtOAc (4×10 ml) then lyophilized. The solid residue obtained is extracted with DCM and the solvent is evaporated to near dryness then purified by preparative HPLC using a gradient of H2O, TFA 0.1% ACN, TFA 0.1%, to afford 21.7 mg (5%) of the title compound. 1H NMR (DMSO-d6) δ 9.13 (s, 1H), 8.42 (d, J=6.7 Hz, 1H), 8.03-7.97 (m, 2H), 7.56 (d, J=6.8 Hz, 1H), 7.51-7.45 (m, 3H). HPLC (max plot) 95%; Rt 1.71 min. LC/MS: (ES+): 321.0, (ES−): 319.0.

reactant | 2,3-dichloro-pyrido(3,4-b)pyrazine | 1.5 mmol, 300 mg, 1 eq. | ClC=1N=C2C(=NC1Cl)C=NC=C2 | C7H3Cl2N3
reactant | benzenesulfonamide | 1.5 mmol, 235.8 mg, 1 eq. | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | K2CO3 | 1.5 mmol, 207.3 mg, 1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 15 ml | O | H2O
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | N-(2-chloropyrido[3,4-b]pyrazin-3-yl)benzenesulfonamide | 21.7 mg, 5% | ClC=1N=C2C(=NC1NS(=O)(=O)C1=CC=CC=C1)C=NC=C2 | C13H9ClN4O2S
